US07727988B2
3-[5-(3-Fluoro-pyridin-4-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep69)
1-(3,3-Dimethoxy-propyl)-5-(3-fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione (Prep 68, 75 mg, 0.24 mmol) was dissolved in MeOH (2 ml) and 1N HClaq (500 μl) was added. The mixture was stirred at room temperature for 16 hours. MeOH was evaporated under vacuum and dioxane was added. After heating the mixture at 60° C. for 6 hours the solvents were evaporated to give the title compound that was used in the next step without further purification (63 mg, quantitative yield).

reactant | 1-(3,3-Dimethoxy-propyl)-5-(3-fluoro-pyridin-4-yl)-1H-pyrimidine-2,4-dione | 0.24 mmol, 75 mg | COC(CCN1C(NC(C(=C1)C1=C(C=NC=C1)F)=O)=O)OC | C14H16FN3O4
solvent | MeOH | 2 ml | CO | CH4O
product | 3-[5-(3-Fluoro-pyridin-4-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | quantitative yield | FC=1C=NC=CC1C=1C(NC(N(C1)CCC=O)=O)=O | C12H10FN3O3
